US07495022B2
(9-1) 4-(Pyridin-3-ylsulfamoylmethyl)benzoic acid methyl ester
To a solution of 4-chlorosulfonylmethylbenzoic acid methyl ester (435 mg, 1.75 mmol) and 3-aminopyridine (170 mg, 1.81 mmol) in CH2Cl2 (10 mL) at 0° C. was added triethylamine (488 μL, 3.50 mmol), and the mixture was stirred at room temperature for 2 hours. The reaction mixture was diluted with CHCl3, and the mixture was washed with water and brine. The organic layer was dried (Na2SO4) and evaporated under reduced pressure to give the crude product which was purified by MPLC on silica gel (3% MeOH in EtOAc) to afford the titled compound (434 mg, 81%) as a white solid.

reactant | 4-chlorosulfonylmethylbenzoic acid methyl ester | 1.75 mmol, 435 mg | COC(C1=CC=C(C=C1)CS(=O)(=O)Cl)=O | C9H9ClO4S
reactant | 3-aminopyridine | 1.81 mmol, 170 mg | NC=1C=NC=CC1 | C5H6N2
reactant | triethylamine | 3.50 mmol, 488 μL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 4-(Pyridin-3-ylsulfamoylmethyl)benzoic acid methyl ester | 434 mg, 81% | COC(C1=CC=C(C=C1)CS(NC=1C=NC=CC1)(=O)=O)=O | C14H14N2O4S
